US07419975B2
To a solution of methyl 4,4-dimethoxy-butyrate(4.99 g, 30.8 mmol) and N,O-dimethylhydroxylamine HCl(4.65 g, 47.68 mmol) in 60 mL of THF at −20° C., is added isopropylmagnesiumchloride(46 mL, 92.28 mmol, 2.0M in THF) maintaining the temperature below −20° C. After stirring at −10° C. for 30 min, the reaction mixture is quenched with 50 mL of water and extracted with 3×80 mL of EtOAc. The combined organic layers is dried over Na2SO4 and filtered through a short silica gel pluge. The solution is concentrated to give 4,4,N-Trimethoxy-N-methyl-butyramide(5.9 g, 99%) as pale liquid. M/Z=191.0

reactant | methyl 4,4-dimethoxy-butyrate | 30.8 mmol, 4.99 g | COC(CCC(=O)OC)OC | C7H14O4
reactant | N,O-dimethylhydroxylamine HCl | 47.68 mmol, 4.65 g | Cl.CNOC
reactant | isopropylmagnesiumchloride | 92.28 mmol, 2.0M, 46 mL | C(C)(C)[Mg]Cl
solvent | THF | 60 mL | C1CCOC1 | C4H8O
product | 4,4,N-Trimethoxy-N-methyl-butyramide | 5.9 g, 99% | COC(CCC(=O)N(C)OC)OC | C8H17NO4
